US05574024
Diethylchlorophosphite (18.8 gm, 0.12 moles) and 120 ml dry ether are combined in a round bottom flask equipped with a dropping funnel and under N2 atmosphere. With a double tipped canula, butyl magnesium chloride (60 ml; 2.0M, 0.12 moles; Aldrich Chemical Co., Milwaukee, Wis.) is added to the dropping funnel. The round bottom flask is cooled in a salt water/ice bath and the contents of the dropping funnel are slowly added to the cooled flask. After the addition is complete, the bath is removed and the solution is allowed to stir at room temperature for three hours. The precipitate which forms during the course of the reaction is then quickly filtered and washed with ether. The filtrate is concentrated by rotary evaporator to yield 21.17 gm of diethylbutylphosphonite. 31P NMR (CDCl3): 182 ppm.

reactant | Diethylchlorophosphite | 0.12 moles, 18.8 gm | C(C)OP(OCC)Cl | C4H10ClO2P
reactant | butyl magnesium chloride | 0.12 moles, 2.0M, 60 ml | C(CCC)[Mg]Cl
solvent | ether | 120 ml | CCOCC | C4H10O
product | diethylbutylphosphonite | 21.17 gm | C(C)OP(OCC)CCCC | C8H19O2P
